US06482986B1
1-[3-Chloro-4-(3,3,5,5-tetramethylcyclohexyl)phenyl]ethanone, Compound V.5
40.25 g of aluminium chloride are added at 0° C., under an inert atmosphere, to 350 ml of dichloromethane, followed by addition of 5 g of 1-[4-(3,3,5,5-tetramethylcyclohexyl)phenyl]ethanone (compound V.1) dissolved in dichloromethane. After stirring for 2 hours at 0° C., 17.1 ml of chlorine gas (d=1.565, measured in the liquid state at −78° C.) are bubbled into the reaction. After warming to room temperature, a water/ice mixture is added to the reaction mixture. The resulting mixture is extracted with dichloromethane, the phases are separated after settling has taken place, and the organic phase is dried over magnesium sulphate and concentrated under reduced pressure. The residue is purified on a column of silica gel, eluting with a 7/3 (v/v) cyclohexane/dichloromethane mixutre; yield=74%; m.p.=64° C.

reactant | aluminium chloride | 40.25 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-[4-(3,3,5,5-tetramethylcyclohexyl)phenyl]ethanone | 5 g | CC1(CC(CC(C1)(C)C)C1=CC=C(C=C1)C(C)=O)C | C18H26O
reactant | chlorine | 17.1 ml | ClCl | Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
product | 1-[3-Chloro-4-(3,3,5,5-tetramethylcyclohexyl)phenyl]ethanone | yield=74% | ClC=1C=C(C=CC1C1CC(CC(C1)(C)C)(C)C)C(C)=O | C18H25ClO
